US04059621
1-(3,4-methylenedioxy benzamido)-3-(N-benzyl tert-butylamino)-2- propanol hydrochloride, starting from 6.3 g (0.034 mole) of 3,4-methylenedioxy benzoyl chloride and 8 g (0.034 mole) of 1-amino-3-(N-benzyl tert-butylamino)-2- propanol (yield 80 %).

reactant | 1-(3,4-methylenedioxy benzamido)-3-(N-benzyl tert-butylamino)-2- propanol hydrochloride | Cl.C1OC=2C=C(C(=O)NCC(CN(CC3=CC=CC=C3)C(C)(C)C)O)C=CC2O1
reactant | 3,4-methylenedioxy benzoyl chloride | 0.034 mole, 6.3 g | C1OC=2C=C(C(=O)Cl)C=CC2O1 | C8H5ClO3
product | 1-amino-3-(N-benzyl tert-butylamino)-2- propanol | 0.034 mole, 8 g, yield 80 % | NCC(CN(CC1=CC=CC=C1)C(C)(C)C)O | C14H24N2O
